US04897405
Preparation of 3-Methyl-2-naphthalenylacetonitrile
KCN (1.81 g, 27.85 mmol) was added to a solution of 2-bromomethyl-3-methylnaphthalene (5.95 g, 25.32 mmol) in 150 mL of DMSO at room temperature. The resulting mixture was stirred 1 hour, diluted with water (175 mL) and stirred another 15 minutes. The resulting precipitate was collected by filtration, washed with water and dried in vacuo to give the desired product (3.71 g g, 81%) of sufficient purity for use in the subsequent reaction.

reactant | KCN | 27.85 mmol, 1.81 g | [C-]#N.[K+]
reactant | 2-bromomethyl-3-methylnaphthalene | 25.32 mmol, 5.95 g | BrCC1=CC2=CC=CC=C2C=C1C | C12H11Br
reactant | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | water | 175 mL | O | H2O
product | 3-Methyl-2-naphthalenylacetonitrile | 3.71 g, 81% | CC=1C=C(C2=CC=CC=C2C1)CC#N | C13H11N
